US07320995B2
3-bromo-2-phenyl-6,7-dihydro-5H-pyrrolo[1,2-a]imidazole
To a solution of 2-phenyl-6,7-dihydro-5H-pyrrolo[1,2-a]imidazole (3.38 g, 18.3 mmol) in dry CH2Cl2 (113 mL) slowly add bromine (1.0 mL, 20.2 mmol) and stir the mixture at room temperature for 1.5 hours. Add a saturated aqueous solution of NaHCO3 (100 mL) and extract with CH2Cl2 (3×100 mL). Wash the combined organic layers with NaHSO3 (40%, 30 mL), dry (MgSO4) and concentrate in vacuo. Purify the residue by flash chromatography (SiO2, eluent: CH2Cl2 to CH2Cl2/MeOH 20:1) to yield a red solid, 3.54 g, 73% yield. MS(ES+): m/z=263.0 (M+H)+

reactant | 2-phenyl-6,7-dihydro-5H-pyrrolo[1,2-a]imidazole | 18.3 mmol, 3.38 g | C1(=CC=CC=C1)C=1N=C2N(C1)CCC2 | C12H12N2
reactant | bromine | 20.2 mmol, 1.0 mL | BrBr | Br2
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 113 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-2-phenyl-6,7-dihydro-5H-pyrrolo[1,2-a]imidazole | 73% yield | BrC1=C(N=C2N1CCC2)C2=CC=CC=C2 | C12H11BrN2
